US07691902B2
Diethyl 2-(2-bromo-4-nitrophenyl)-2-methylmalonate (8.12 g, 21.7 mmol) was dissolved in 80 mL of anhydrous tetrahydrofuran (THF) under an atmosphere of nitrogen. The solution was then cooled to 0° C. before a solution of lithium aluminum hydride (23 mL, 23 mmol, 1.0 M in THF) was added slowly. The pale yellow solution immediately turned bright red upon the addition of the lithium aluminum hydride. After 5 min, the mixture was quenched by the slow addition of methanol while maintaining the temperature at 0° C. The reaction mixture was then partitioned between dichloromethane and 1 N hydrochloric acid. The layers were separated and the aqueous layer was extracted three times with dichloromethane. The combined organics were evaporated to dryness and then purified by column chromatography (SiO2, 120 g) utilizing a gradient of 0-100% ethyl acetate in hexanes over 45 minutes. 2-(2-Bromo-4-nitrophenyl)-2-methylpropane-1,3-diol was isolated as a red solid (2.0 g, 31%). 1H NMR (400 MHz, d6-DMSO) δ 8.34 (d, J=2.6 Hz, 1H), 8.16 (dd, J=2.6, 8.9 Hz, 1H), 7.77 (d, J=8.9 Hz, 1H), 4.78 (t, J=5.2 Hz, 2H), 3.98-3.93 (m, 2H), 3.84-3.79 (m, 2H), 1.42 (s, 3H). Retention time 0.89 min.

reactant | Diethyl 2-(2-bromo-4-nitrophenyl)-2-methylmalonate | 21.7 mmol, 8.12 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OCC)(C(=O)OCC)C | C14H16BrNO6
reactant | lithium aluminum hydride | 23 mmol, 1.0 M, 23 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2-(2-Bromo-4-nitrophenyl)-2-methylpropane-1,3-diol | BrC1=C(C=CC(=C1)[N+](=O)[O-])C(CO)(CO)C | C10H12BrNO4
